US04837217
Preparation of 4-bromo-2-ethyl-5-(4-methoxymethoxybenzyloxy)-3(2H)-pyridazinone (Compound No. 2)
In 30 ml of N,N-dimethylformamide were dissolved 1.2 g of 4,5-dibromo-2-ethyl-3(2H)-pyridazinone and 0.88 g of 4-methoxymethoxybenzyl alcohol, and 0.34 g of powdery potassium hydroxide was added thereto. The reaction mixture was stirred overnight at room temperature, poured into water and extracted with benzene. The benzene layer was washed with water, dried over anhydrous sodium sulfate and freed of the benzene by distillation under reduced pressure. The resulting oil was purified by means of TLC [eluting with benzene/ethyl acetate (12/1)] and recrystallization (from benzene/n-hexane) to obtain 450 mg of the aimed compound, m.p. 104°~106.0° C.

reactant | 4,5-dibromo-2-ethyl-3(2H)-pyridazinone | 1.2 g | BrC=1C(N(N=CC1Br)CC)=O | C6H6Br2N2O
reactant | 4-methoxymethoxybenzyl alcohol | 0.88 g | COCOC1=CC=C(CO)C=C1 | C9H12O3
reactant | potassium hydroxide | 0.34 g | [OH-].[K+]
reactant | water | O | H2O
solvent | N,N-dimethylformamide | 30 ml | CN(C=O)C | C3H7NO
product | 4-bromo-2-ethyl-5-(4-methoxymethoxybenzyloxy)-3(2H)-pyridazinone | 450 mg | BrC=1C(N(N=CC1OCC1=CC=C(C=C1)OCOC)CC)=O | C15H17BrN2O4
